US08802712B2
4-(6-Benzyloxy-7-methoxy-3-nitroquinoline-4-carbonyl)benzonitrile (8.82 g, 20.07 mmol), iron powder (11.21 g, 200.7 mmol) and 2.0 M hydrochloric acid (22.76 ml) are suspended in methanol (455 ml) (stirrer motor) and heated at 66° C. for 18 h. When the reaction is complete (TLC (HPTLC) monitoring), the solid material is filtered off through kieselguhr with suction and rinsed with tetrahydrofuran (500 ml). The filtrate is evaporated to half its volume in vacuo. Semi-saturated NaCl solution (300 ml) is subsequently added, and the mixture is extracted twice with ethyl acetate (300 ml each time). The combined organic phases are dried over sodium sulfate, filtered with suction and evaporated to dryness in vacuo. The residue obtained is dissolved in ethyl acetate and filtered through a little flash silica gel. The filtrate is evaporated in vacuo, the residue is suspended in ethyl acetate (70 ml) and ethanol (20 ml), subsequently filtered off with suction and dried in a high vacuum, giving 4-(3-amino-6-benzyloxy-7-methoxyquinoline-4-carbonyl)benzonitrile (5.83 g, 14.23 mmol) as a solid having a melting point of 192.6° C. MS: 410.1 (M+H+), TLC (HPTLC): Rf=0.36 (ethyl acetate).

reactant | 4-(6-Benzyloxy-7-methoxy-3-nitroquinoline-4-carbonyl)benzonitrile | 20.07 mmol, 8.82 g | C(C1=CC=CC=C1)OC=1C=C2C(=C(C=NC2=CC1OC)[N+](=O)[O-])C(=O)C1=CC=C(C#N)C=C1 | C25H17N3O5
reactant | hydrochloric acid | 2.0 M, 22.76 ml | Cl | ClH
solvent | methanol | 455 ml | CO | CH4O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
catalyst | iron | 200.7 mmol, 11.21 g | [Fe] | Fe
product | 4-(3-amino-6-benzyloxy-7-methoxyquinoline-4-carbonyl)benzonitrile | 14.23 mmol, 5.83 g | NC=1C=NC2=CC(=C(C=C2C1C(=O)C1=CC=C(C#N)C=C1)OCC1=CC=CC=C1)OC | C25H19N3O3
